US04168248
PREPARATION OF 3-METHYLNONAN-1-YL-HEXAHYDROBENZOATE
The procedure in Example XIX is followed except that 39 g. of 3-methylnonan-1-ol instead of 40 g. of 3-methylnonan-3-ol are brought into the reaction.

reactant | 3-methylnonan-1-ol | CC(CCO)CCCCCC | C10H22O
reactant | 3-methylnonan-3-ol | CC(CC)(CCCCCC)O | C10H22O
product | 3-METHYLNONAN-1-YL-HEXAHYDROBENZOATE | CC(CCOC(C1CCCCC1)=O)CCCCCC | C17H32O2
